US07501516B2
3-cyano-7-hydroxy-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline
A mixture of 4-chloro-3-cyano-7-hydroxy-6-methoxyquinoline (5 g), 2,3-methylenedioxyaniline (3.07 g) and propanol (100 ml) was stirred and heated to 115° C. for 18 hours. The resultant precipitate was isolated, washed in turn with propanol and diethyl ether and dried under vacuum. There was thus obtained the title compound (5.51 g); NMR Spectrum: (DMSOd6) 3.99 (s, 3H), 6.06 (s, 2H), 6.93-7.0 (m, 3H), 7.48 (s, 1H), 8.16 (s, 1H), 8.94 (s, 1H); Mass Spectrum: M+H+ 336.

reactant | 4-chloro-3-cyano-7-hydroxy-6-methoxyquinoline | 5 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)O)C#N | C11H7ClN2O2
reactant | 2,3-methylenedioxyaniline | 3.07 g | C1OC2=C(N)C=CC=C2O1 | C7H7NO2
solvent | propanol | 100 ml | C(CC)O | C3H8O
product | 3-cyano-7-hydroxy-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=CC=C1)OCO2)OC)O | C18H13N3O4
